US05728500
4.7 g (0.014 mol) of the above prepared 5-[N-(4-tolyl)-N-phenylamino]acenaphthene was dissolved in 30 ml of N,N-dimethylformamide, and 3.22 g (0.021 mol) of phosphorus oxychloride was dropwise added thereto at room temperature for 10 minutes. After the temperature was raised to 50° C., and the mixture was stirred for 14 hours. The reaction was determined to be finished when disappearance of 5-[N-(4-tolyl)-N-phenylamino]acenaphthene was identified. The reaction product was poured into an aqueous solution having 10 g (0.23 mol) of 93% sodium hydroxide dissolved in 250 ml of water. The resultant mixture was cooled to precipitate a crystal, which was then filtrated, washed with water and dried to obtain 4.94 g (yield: 97.1%) of 5-[N-(4-formylphenyl)-N-(4-tolyl)amino]acenaphthene.

reactant | 5-[N-(4-tolyl)-N-phenylamino]acenaphthene | C1(=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C2CCC=3C=CC=C1C32)C | C25H21N
reactant | phosphorus oxychloride | 0.021 mol, 3.22 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 0.23 mol, 10 g | [OH-].[Na+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 5-[N-(4-formylphenyl)-N-(4-tolyl)amino]acenaphthene | 4.94 g, yield: 97.1% | C(=O)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C2CCC=3C=CC=C1C32 | C26H21NO
